US04000275
3-Chloro-6-(3,4-epoxypentyl)benzimidazo[2,1-b]quinazolin-12(6H)one is prepared with 3-chlorobenzimidazo[2,1-b]quinazolin-12(6H)one and 1-bromo-3,4-epoxypentane.

reactant | 3-chlorobenzimidazo[2,1-b]quinazolin-12(6H)one | ClC1=CC=C2C(N3C(=NC2=C1)NC1=C3C=CC=C1)=O | C14H8ClN3O
reactant | 1-bromo-3,4-epoxypentane | BrCCC1C(C)O1 | C5H9BrO
product | 3-Chloro-6-(3,4-epoxypentyl)benzimidazo[2,1-b]quinazolin-12(6H)one | ClC1=CC=C2C(N3C(=NC2=C1)N(C1=C3C=CC=C1)CCC1C(C)O1)=O | C19H16ClN3O2
